US09085555B2
B. 6-Ethyl-1H-indole-3-carbaldehyde
6-Vinyl-1H-indole-3-carbaldehyde (1.5 g, 8.76 mmol) was dissolved in THF (45 mL), Pd/C 10% (300 mg) was added and the solution was degassed 3 times replacing air by nitrogen and finally nitrogen by hydrogen. The reaction mixture was further stirred under hydrogen atmosphere 4 h and the catalyst was removed through a pad of Celite and washed with THF. The solvent was concentrated under and the crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1) to give the desired compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.40; MS (LC/MS): 174.1 [M+H]+, 196.1 [M+Na]+, 172.1 [M−H]−; tR (HPLC conditions a): 3.05 min.

reactant | 6-Vinyl-1H-indole-3-carbaldehyde | 8.76 mmol, 1.5 g | C(=C)C1=CC=C2C(=CNC2=C1)C=O | C11H9NO
solvent | THF | 45 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 6-Ethyl-1H-indole-3-carbaldehyde | C(C)C1=CC=C2C(=CNC2=C1)C=O | C11H11NO
